Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Provera / clarithromycin
 
Attending: ___.
 
Chief Complaint:
 Headache

 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ yo female w/ beta thalessemia minor, presenting w/ persistent 
HA after LP. 

She reports that her HA has been ongoing for the last 7 days. HA 
located over occipital region, pounding in character,. Non 
radiating. Denies any vision changes, speech disturbance. She 
reports feeling lightheaded but without vertigo. Associated 
symptoms also include nausea, photophobia. Worsened with 
standing up, her HA does worsen throughout the day. She denies 
any fevers since ___. At ___ ER on ___ and dx'd 
viral menegitis. Patient has been trying 800 mg ibuprofen 
q8hours. 

AM: not improving, wants to be admitted for pain control.
In the ED, initial vitals: 10 98.1 112 151/94 20 99% RA  
- Exam notable for no menigisumus and positional headache. 
- Labs notable for: WBC 13.1 w/ 86.1 neutrophils, h/h 11.7/35.6, 
platelets of 293, Nas 139, K 3.6, Cl 106, HCO3 21, BUN 7, Cr 
0.8, normal UA, and negative Hcg.
- Imaging was not obtained
- Pt given: 2 Liters of IV (NS) 
IV Ketorolac 30 mg 
IV DiphenhydrAMINE 25 mg  x2
PO Acetaminophen-Caff-Butalbital 1 TAB  x 4
IV Metoclopramide 10 mg  
PO Ibuprofen 600 mg x 2 
IV Ketorolac 15 mg 
Vitals prior to transfer:   98.9 71 123/83 16 100%r/a RA 

On arrival to the floor, pt reports improved pain from previous. 
She slept all day ___ after being discharged and then 
started developing worsening headache so she came back to the ED 
on ___. She says the pain service told her she was too high risk 
for infection to do a blood patch.

ROS:  
No fevers, chills, night sweats, or weight changes. No changes 
in vision or hearing, no changes in balance. No cough, no 
shortness of breath, no dyspnea on exertion. No chest pain or 
palpitations. No nausea or vomiting. No diarrhea or 
constipation. No dysuria or hematuria. No hematochezia, no 
melena. No numbness or weakness, no focal deficits.  

 
Past Medical History:
Beta Thalessemia
Asthma
 

 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
ADMISSION PHYSICAL EXAM  
Vitals: 98.6, 128/80, 67, 16, 94%RA
General: well-appearing, NAD
HEENT: PERRLA, EOMI, no scleral icterus. Tongue protrudes 
midline 
Neck: supple, no nuchal rigidity noted
Lungs: CTAB no wheezes, rales or rhonchi 
CV: RRR, normal S1/S2 no murmurs, rubs or gallops 
Abdomen: BS+, soft, nontender, nondistended 
Ext: WWP no lesions or rashes. LP side is c/d/i w/o evidence of 
hematoma or cellulitis 
Neuro: CN II-XII intact, grossly nonfocal.

Discharge:
Vitals: 98.1, 101/50, 54, 18, 100% RA
General: well-appearing, NAD
HEENT: PERRLA, EOMI, no scleral icterus
Neck: supple, no nuchal rigidity noted
Lungs: CTAB no wheezes, rales or rhonchi 
CV: RRR, normal S1/S2 no murmurs, rubs or gallops 
Abdomen: BS+, soft, nontender, nondistended 
Ext: WWP no lesions or rashes. LP side is c/d/i w/o evidence of 
hematoma or cellulitis 
Neuro: CN II-XII intact, grossly nonfocal.

 
Pertinent Results:
ADMISSION LABS:
===============

___ 08:30PM URINE  HOURS-RANDOM
___ 08:30PM URINE  HOURS-RANDOM
___ 08:30PM URINE  UCG-NEGATIVE
___ 08:30PM URINE  GR HOLD-HOLD
___ 08:30PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 08:30PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-10 BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 08:30PM URINE  RBC-0 WBC-<1 BACTERIA-NONE YEAST-NONE 
EPI-<1
___ 08:30PM URINE  MUCOUS-OCC
___ 04:20PM   GLUCOSE-98 UREA N-7 CREAT-0.8 SODIUM-139 
POTASSIUM-3.6 CHLORIDE-106 TOTAL CO2-21* ANION GAP-16
___ 04:20PM   WBC-13.1* RBC-5.25 HGB-11.7* HCT-35.6* 
MCV-68* MCH-22.4* MCHC-33.0 RDW-16.7*
___ 04:20PM   NEUTS-86.3* LYMPHS-9.1* MONOS-4.2 EOS-0.1 
BASOS-0.3
___ 04:20PM   PLT COUNT-293

DISCHARGE:

___ 09:35AM BLOOD WBC-6.4 RBC-5.04 Hgb-11.3* Hct-34.2* 
MCV-68* MCH-22.4* MCHC-33.0 RDW-16.7* Plt ___
___ 06:10AM BLOOD Glucose-76 UreaN-8 Creat-0.7 Na-136 K-3.5 
Cl-105 HCO3-21* AnGap-14
___ 06:10AM BLOOD Calcium-8.6 Phos-3.1 Mg-1.___ yo female w/ beta thalessemia minor, presenting w/ persistent 
HA post LP admitted to observation for pain control.

# Headache: Patient recently diagnosed with viral meningitis and 
had LP. She then presented with headache that was positional 
(worse with standing or sitting), all over, associated with 
sensitivity to light and sound.  Neurological exam was 
unremarkable.  Pain was consulted for potential blood patch 
however in setting of recent viral meningitis, they did not feel 
this was safe.  She was treated with ketorolac, fioricet 
transitioned to fioricet and ibuprofen on discharge.  The 
headache essentially resolved on discharge, with only mild 
symptoms at discharge.  

# Constipation: Pt. reports history of constipation and has been 
prescribed laxatives to take every day in order to have BM. She 
denied any abdominal pain, n/v. She also says she is not passing 
gas however she has good bowel sounds in all four quadrants and 
abdomen is benign.  She was treated with colace, senna, miralax 
and lactulose.

# Leukocytosis: Presented with leukocytosis 13.1 from 11.6 
likely in the setting of viral meningitis. 

# Viral meningitis: CSF with 8 WBC, negative HSV and viral 
cultures.  Patient treated symptomatically and symptoms resolved 
prior to dischage.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Minastrin ___ Fe (norethindrone-e.estradiol-iron) 1 mg-20 
mcg(24) /75 mg (4) oral DAILY 

 
Discharge Medications:
1. Minastrin ___ Fe (norethindrone-e.estradiol-iron) 1 mg-20 
mcg(24) /75 mg (4) oral DAILY 
2. Acetaminophen-Caff-Butalbital ___ TAB PO Q6H:PRN pain 
RX *butalbital-acetaminophen-caff 50 mg-325 mg-40 mg ___ 
tablet(s) by mouth four times a day Disp #*30 Tablet Refills:*0
3. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice a day Disp 
#*30 Tablet Refills:*0
4. Ibuprofen 600 mg PO Q8H 
RX *ibuprofen 600 mg 1 tablet(s) by mouth three times a day Disp 
#*30 Tablet Refills:*0
5. Lactulose 30 mL PO DAILY:PRN constipation 
RX *lactulose 20 gram/30 mL 30 mL by mouth once a day Refills:*0
6. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
RX *polyethylene glycol 3350 [Miralax] 17 gram/dose 1 powder(s) 
by mouth once a day Refills:*0
7. Senna 8.6 mg PO BID 
RX *sennosides [senna] 8.6 mg 1 tab by mouth twice a day Disp 
#*30 Tablet Refills:*0
8. OxycoDONE (Immediate Release)  2.5-5 mg PO Q6H:PRN pain 
RX *oxycodone 5 mg one half to one tab by mouth four times a day 
Disp #*15 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: viral meningitis, post-LP headache
Secondary: beta thalassemia, asthma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you during your 
hospitalization. You were admitted with a headache after a 
lumbar puncture. You have viral meningitis (inflammation of the 
layer around your brain) which will improve on its own without 
medications as will the headache caused by the lumbar puncture. 
You were treated with medications to help with pain and nausea. 
You should follow up with your PCP after discharge.

Wishing you the best,
Your ___ Care Team
 
Followup Instructions:
___